US08791119B2
To a solution of 10.5 g (35.1 mmol) of tert-butyl 8-carbamoyl-6-chloro-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in 1 l of a mixture of 50% ethyl acetate in dichloromethane precooled to 0° C. is added slowly a solution of 6.90 g (38.6 mmol) of N-bromosuccinimide in 200 ml of dichloromethane. The reaction is stirred for 5 hours at 0° C. and then for 12 hours while allowing the temperature to return to room temperature. 300 ml of water are then added, the organic phase is separated out by settling and the aqueous phase is then washed with twice 200 ml of ethyl acetate. The organic phases are combined and partially concentrated under reduced pressure. The solution is taken up in 60 ml of water and the organic solvents are removed by evaporation under reduced pressure. The insoluble matter suspended in water is isolated by filtration, washed with water and then dried under reduced pressure in the presence of phosphorus pentoxide. The residue obtained is chromatographed on a column of silica gel, eluting with a mixture of 5 to 50% ethyl acetate in dichloromethane, to give 5.0 g of tert-butyl 7-bromo-8-carbamoyl-6-chloro-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in the form of a white solid after triturating in ethyl acetate and drying at 60° C. under reduced pressure.

reactant | tert-butyl 8-carbamoyl-6-chloro-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 35.1 mmol, 10.5 g | C(N)(=O)C=1C=C(N2C1CN(CC2)C(=O)OC(C)(C)C)Cl | C13H18ClN3O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N-bromosuccinimide | 38.6 mmol, 6.90 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 300 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tert-butyl 7-bromo-8-carbamoyl-6-chloro-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 5.0 g | BrC=1C(=C2N(CCN(C2)C(=O)OC(C)(C)C)C1Cl)C(N)=O | C13H17BrClN3O3
